US06255494B1
Preparation of (RS) 4-[3-[2-(methyl)piperidin-1-yl]propoxy]-2-[(4-chlorophenoxy)methyl]-1-[3-(piperidin-4-yl)propyl]benzimidazole
The title compound was prepared from (RS) 4-[3-[2-(methyl)piperidin-1-yl]propoxy]-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole by standard trifluoroacetic acid deprotection as described supra.

reactant | (RS) 4-[3-[2-(methyl)piperidin-1-yl]propoxy]-2-[(4-chlorophenoxy)methyl]-1-[3-[1-(t-butoxycarbonyl)piperidin-4-yl]propyl]benzimidazole | CC1N(CCCC1)CCCOC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCN(CC2)C(=O)OC(C)(C)C | C36H51ClN4O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (RS) 4-[3-[2-(methyl)piperidin-1-yl]propoxy]-2-[(4-chlorophenoxy)methyl]-1-[3-(piperidin-4-yl)propyl]benzimidazole | CC1N(CCCC1)CCCOC1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)CCCC2CCNCC2 | C31H43ClN4O2
